### PR TITLE
Expmonoid

### PR DESCRIPTION
**Pull request by Gedol**
Use a monoid for the underlying type during exponentiation to a natural number.

### CODE REVIEW

File: Lean4Axiomatic/ClassicalAlgebra/Monoid.lean [hunk 1]
```diff
@@ -53,13 +53,18 @@ attribute [instance] Monoid.toProps
 variable {α : Type} [EqvOp α] [m : Monoid α]
 
 /-- Enables the use of `AA.substL`, `AA.substR`, etc. -/
-local instance monoid_subst_inst
-    : AA.Substitutive₂ (α := α) (· * ·) AA.tc (· ≃ ·) (· ≃ ·)
+instance monoid_subst_inst
+    : AA.Substitutive₂ (α := α) (β := α) (· * ·) AA.tc (· ≃ ·) (· ≃ ·)
```
Comment (cruhland) [inline Lean4Axiomatic/ClassicalAlgebra/Monoid.lean]: I think the `(β := α)` argument isn't needed

File: Lean4Axiomatic/ClassicalAlgebra/Monoid.lean [hunk 2]
```diff
@@ -53,13 +53,18 @@ attribute [instance] Monoid.toProps
 variable {α : Type} [EqvOp α] [m : Monoid α]
 
 /-- Enables the use of `AA.substL`, `AA.substR`, etc. -/
-local instance monoid_subst_inst
-    : AA.Substitutive₂ (α := α) (· * ·) AA.tc (· ≃ ·) (· ≃ ·)
+instance monoid_subst_inst
```
Comment (cruhland) [inline Lean4Axiomatic/ClassicalAlgebra/Monoid.lean]: Can you make this instance, and the one for associativity below, into `scoped instance`s? Then you'll need to add a line `open scoped CA.Monoid` in `Natural/Exponentiation`. I want to avoid clashes between these instances and the ones for naturals, integers, and rationals as much as possible.

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 3]
```diff
@@ -32,26 +33,28 @@ instance (priority := default+1) pow_inst
...
-    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [OfNat α 1] [Ops α ℕ]
+    {α : Type} {ℕ : outParam Type}
+    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [Ops α ℕ]
+    [isMonoid : CA.Monoid.Monoid α]
     :=
-  /-- Any number raised to the power zero, is one. -/
-  pow_zero {x : α} : x ^ (0:ℕ) ≃ 1
-
+  /- TODO: replace requirement of being a monoid with being a commutative ring. -/
+  /-- Any number raised to the power zero is the multiplicative identity of α. -/
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Nitpick: instead of "multiplicative identity", maybe "monoid identity" is a bit more accurate?

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 4]
```diff
@@ -67,16 +70,15 @@ section general
...
 variable
-  {α : Type} {mul : α → α → α} [EqvOp α] [OfNat α 1] [Exponentiation ℕ mul]
+  {α : Type} [EqvOp α] [isMonoid : CA.Monoid.Monoid α]
+  [Exponentiation ℕ (α := α)]
 
 /-- Enables the use of `· * ·` syntax for `α`'s multiplication function. -/
-local instance mul_inst [Exponentiation ℕ mul] : Mul α := {
-  mul := mul
+local instance mul_inst [Exponentiation ℕ (α := α)] : Mul α := {
+  mul := binop
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: If you move this just above `Exponentiation.Props`, and update the signature to require `Monoid α` instead of `Exponentiation`, then you can use ` * ` instead of `binop` in the definition of `pow_step`.

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 5]
```diff
@@ -67,16 +70,15 @@ section general
...
 }
 
-variable [AA.Substitutive₂ (β := α) (· * ·) AA.tc (· ≃ ·) (· ≃ ·)]
-
-/--
+/-
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Change this back to a documentation-style comment?

```suggestion
/--
```

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 6]
```diff
@@ -95,7 +97,7 @@ theorem pow_substL {x₁ x₂ : α} {m : ℕ} : x₁ ≃ x₂ → x₁ ^ m ≃ x
     show x₁ ^ 0 ≃ x₂ ^ 0
     calc
       _ ≃ x₁ ^ 0 := Rel.refl
-      _ ≃ 1      := pow_zero
+      _ ≃ ident  := pow_zero
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: If you create an `OfNat α 1` instance above `Exponentiation.Props` (in the same place that I recommended putting the `Mul` instance), setting `ofNat := ident`, then you won't need to replace `1` with `ident` here or in any of the rest of the file.

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 7]
```diff
@@ -32,26 +33,28 @@ instance (priority := default+1) pow_inst
...
-    {α : Type} {ℕ : outParam Type} (mul : outParam (α → α → α))
-    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [OfNat α 1] [Ops α ℕ]
+    {α : Type} {ℕ : outParam Type}
+    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [Ops α ℕ]
+    [isMonoid : CA.Monoid.Monoid α]
     :=
-  /-- Any number raised to the power zero, is one. -/
-  pow_zero {x : α} : x ^ (0:ℕ) ≃ 1
-
+  /- TODO: replace requirement of being a monoid with being a commutative ring. -/
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: You're suggesting this TODO because many of the theorems below take `AA.Commutative` as arguments? I think it's okay to stick with just a monoid. Not all of the theorems require commutativity; if we required `α` to be a commutative ring, then we would no longer be able to use those theorems with monoids.

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 8]
```diff
@@ -32,26 +33,28 @@ instance (priority := default+1) pow_inst
...
 }
 
-/-- Properties of exponentiation to a natural number. -/
+/-- Properties of exponentiation for a monoid type α to a natural number. -/
 class Exponentiation.Props
-    {α : Type} {ℕ : outParam Type} (mul : outParam (α → α → α))
-    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [OfNat α 1] [Ops α ℕ]
+    {α : Type} {ℕ : outParam Type}
+    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [Ops α ℕ]
+    [isMonoid : CA.Monoid.Monoid α]
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: In almost all cases, instance arguments don't need to be named. I think that's true here too, can you remove the `isMonoid` name?

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 9]
```diff
@@ -32,26 +33,28 @@ instance (priority := default+1) pow_inst
...
 
 export Exponentiation.Props (pow_step pow_zero)
 
 /-- All exponentiation axioms. -/
 class Exponentiation
-    (ℕ : semiOutParam Type) {α : Type} (mul : semiOutParam (α → α → α))
-    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [OfNat α 1]
+    (ℕ : semiOutParam Type) {α : Type}
+    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [eqvop : EqvOp α]
+    [isMonoid : CA.Monoid.Monoid α]
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Remove the `eqvop` and `isMonoid` names

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 10]
```diff
@@ -67,16 +70,15 @@ section general
 /-! ### General properties for any base type -/
 
 variable
-  {α : Type} {mul : α → α → α} [EqvOp α] [OfNat α 1] [Exponentiation ℕ mul]
+  {α : Type} [EqvOp α] [isMonoid : CA.Monoid.Monoid α]
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Remove the `isMonoid` name

**Review by cruhland — COMMENTED** [review]
Some initial comments, I think they will help you reduce the number of lines you need to change.

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 11]
```diff
@@ -32,26 +35,36 @@ instance (priority := default+1) pow_inst
...
+  pow_step {x : α} {n : ℕ} : x ^ step n ≃ (x ^ n) * x
 
 export Exponentiation.Props (pow_step pow_zero)
 
 /-- All exponentiation axioms. -/
 class Exponentiation
-    (ℕ : semiOutParam Type) {α : Type} (mul : semiOutParam (α → α → α))
-    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [EqvOp α] [OfNat α 1]
+    (ℕ : semiOutParam Type) {α : Type}
+    [Core ℕ] [Addition ℕ] [Multiplication ℕ] [eqvop : EqvOp α]
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Nitpick: remove `eqvop` name

File: Lean4Axiomatic/Natural/Exponentiation.lean [hunk 12]
```diff
@@ -362,12 +364,12 @@ multiplication, then that's just the original number.
...
-  _ ≃ x^(step 0) := pow_substR literal_step
-  _ ≃ x^0 * x    := pow_step
-  _ ≃ 1 * x      := AA.substL pow_zero
-  _ ≃ x          := AA.identL
+theorem pow_one {x : α} : x^1 ≃ x := calc
+  _ = x^1         := rfl
+  _ ≃ x^(step 0)  := pow_substR literal_step
+  _ ≃ x^(0) * x := pow_step
+  _ ≃ 1 * x       := AA.substL pow_zero
+  _ ≃ x           := identL
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Exponentiation.lean]: Nitpick: align all of the `:=` operators. And I think the parens aren't needed around that `(0)`?

File: Lean4Axiomatic/Natural/Impl/Generic/Exponentiation.lean [hunk 13]
```diff
@@ -31,7 +37,7 @@ Anything to the zero power is one.
 recursive definition of `_pow`.
 -/
 theorem pow_zero {x : α} : x ^ (0:ℕ) ≃ 1 := calc
-  _ ≃ x ^ (0:ℕ)          := Rel.refl
+  _ ≃ x ^ (0:ℕ)              := Rel.refl
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Impl/Generic/Exponentiation.lean]: Nitpick: fix alignment of the `:=` operators (there's a few more instances below too).

File: Lean4Axiomatic/Natural/Multiplication.lean [hunk 14]
```diff
@@ -508,4 +509,45 @@ theorem sqrt1 {n : ℕ} : n * n ≃ 1 ↔ n ≃ 1 := by
     have : n * n ≃ 1 := factors_eqv_1.mpr (And.intro ‹n ≃ 1› ‹n ≃ 1›)
     exact this
 
+local instance mul_monoid_ops :  CA.Monoid.Ops ℕ := {
+  binop := (· * ·)
+  ident := 1
+}
+
+def mul_monoid_props : CA.Monoid.Props (α := ℕ) :=
+{
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Multiplication.lean]: Nitpick: put the open brace on the same line as the `:=`

File: Lean4Axiomatic/Natural/Multiplication.lean [hunk 15]
```diff
@@ -508,4 +509,45 @@ theorem sqrt1 {n : ℕ} : n * n ≃ 1 ↔ n ≃ 1 := by
...
+  have : Natural.step (0 : ℕ) ≃ 0 :=
+    Rel.trans (Rel.symm Natural.literal_step) ‹(1 : ℕ) ≃ 0›
+  exact absurd ‹Natural.step (0 : ℕ) ≃ 0› Natural.step_neqv_zero
+
+/--
+The multiplicative identity for naturals is not the same as 0.
+-/
+theorem mul_ident_not_zero : mul_monoid.toOps.ident ≄ 0 := by
+  show mul_monoid.toOps.ident ≄ 0
+  exact one_neqv_zero
```
Comment (cruhland) [inline Lean4Axiomatic/Natural/Multiplication.lean]: It looks like this theorem is never used?

File: Lean4Axiomatic/Rational/Multiplication.lean [hunk 16]
```diff
@@ -205,4 +208,31 @@ integer square roots of unity are also rational square roots of unity.
...
+  TODO: Show rationals form a ring.
+-/
+instance mul_monoid : CA.Monoid.Monoid (α := ℚ) := {
+  toOps   := mul_monoid_ops
+  toProps := mul_monoid_props
+}
+
+instance : AP ((mul_monoid.toOps.ident) ≄ (0 : ℚ)) := by
+  have mul_ident_not_zero : mul_monoid.toOps.ident ≄ (0 : ℚ) := nonzero_one
+  exact AP.mk mul_ident_not_zero
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Multiplication.lean]: Is this instance still needed?

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 17]
```diff
@@ -38,12 +38,11 @@ def of_scientific
     (mantissa : Nat) (exponentIsNegative : Bool) (decimalExponent : Nat) : ℚ
     :=
   let naturalMantissa : ℕ := OfNat.ofNat mantissa
-  let naturalDecimalExponent : ℕ := OfNat.ofNat decimalExponent
+  let naturalDecimalExponent : ℕ := OfNat.ofNat decimalExponent
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Nitpick: extra space at end of line

File: Lean4Axiomatic/Rational/Reciprocation.lean [hunk 18]
```diff
@@ -38,12 +38,11 @@ def of_scientific
...
   let naturalMantissa : ℕ := OfNat.ofNat mantissa
-  let naturalDecimalExponent : ℕ := OfNat.ofNat decimalExponent
+  let naturalDecimalExponent : ℕ := OfNat.ofNat decimalExponent 
   let powTen := (10:ℕ) ^ naturalDecimalExponent
 
-  have : Natural.step 0 ≄ 0 := Natural.step_neqv_zero
-  have : (1:ℕ) ≄ 0 := AA.neqv_substL (Rel.symm Natural.literal_step) this
-  have : AP ((1:ℕ) ≄ 0) := AP.mk this
+  have : Natural.mul_monoid.toOps.ident ≄ 0 := Natural.one_neqv_zero
+  have : AP (Natural.mul_monoid.toOps.ident ≄ 0) := AP.mk this
```
Comment (cruhland) [inline Lean4Axiomatic/Rational/Reciprocation.lean]: Are you able to use a literal `(1:ℕ)` here instead of `Natural.mul_monoid.toOps.ident`?

**Review by cruhland — COMMENTED** [review]
A few minor details, then this should be good to go!

**Review by cruhland — APPROVED** [review]
